US04055654
A solution of 12.0 parts of 6,8-di-t-butyl-4-oxo-4H-1benzopyran-2-carboxylic acid, ethyl ester in 150 parts of ethanoo was hydrogenated, using Raney Nickel as catalyst, until one equivalent of hydrogen had been absorbed. The catalyst was removed by filtration and the ethanol was evaporated to give a residue which was chromatographed on silica gel. Careful elution with a 1:1 mixture of chloroform and light petroleum (b.p. 60°-80° C) gave 3.73 parts of 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, m.p. 61°-63° C, as a yellow solid.

reactant | 6,8-di-t-butyl-4-oxo-4H-1benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H26O4
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | Raney Nickel | [Ni] | Ni
product | 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(CC(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H28O4
